US08975254B2
b) 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxylic acid
Ethyl 5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxylate (1.77 g, 6.57 mmol) was dissolved in THF (20 ml). 1M lithium hydroxide monohydrate (6.57 ml) was added and the resulting mixture stirred at RT for 2 h. During the same day more of 1M lithium hydroxide monohydrate (19.71 ml in total) was added and the reaction mixture was stirred overnight. THF was evaporated, water was added and the pH was adjusted to 4 with citric acid solution. The mixture was extracted four times with ethyl acetate. The combined organic layers were dried and evaporated. LC-MS: [M+1]=242.24.

reactant | Ethyl 5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxylate | 6.57 mmol, 1.77 g | O1C(CCCC1)OCCC1=CC(=NO1)C(=O)OCC | C13H19NO5
reactant | lithium hydroxide monohydrate | 1M, 6.57 ml | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 1M, 19.71 ml | O.[OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxylic acid | O1C(CCCC1)OCCC1=CC(=NO1)C(=O)O | C11H15NO5
